US06696473B2
To a chilled solution (−10° C.) of 4-chloro-3-nitrobenzoyl chloride (1.85 g, 8.4 mmol) in anhydrous THF (60 mL) was added dropwise a solution of ethanolamine (0.48 mL, 8.0 mmol) in THF (20 mL) followed by TEA (1.1 mL, 8.0 mmol). After stirring 1 h while temperature was maintained at −10° C., the solution was combined with a 1:1 mixture of ice and satd NaHCO3 (100 mL) and then extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine, dried (Na2SO4), and concentrated to give 4-chloro-N-(2-hydroxyethyl)-3-nitrobenzamide (1.74 g, 89%) as a white solid, which was used without purification. TLC (3:22 MeOH/DCM Rf 0.36).

reactant | 4-chloro-3-nitrobenzoyl chloride | 8.4 mmol, 1.85 g | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | ethanolamine | 8.0 mmol, 0.48 mL | C(O)CN | C2H7NO
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-(2-hydroxyethyl)-3-nitrobenzamide | 1.74 g, 89% | ClC1=C(C=C(C(=O)NCCO)C=C1)[N+](=O)[O-] | C9H9ClN2O4
